US06407116B1
2-Amino-N-methylbenzamide
Isatoic anhydride (10.0 g) was suspended in tetrahydrofuran (200 ml) and treated dropwise with 40% solution of methylamine in methanol (10.0 ml) with stirring. After stirring at room temperature for 16 hours, the solvent was distilled off under reduced pressure to give the title compound (10.3 g, about 100%). Melting point: 78.0 to 79.0° C. (recrystallized from ethyl acetate-n-hexane).

reactant | Isatoic anhydride | 10.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 10.0 ml | CO | CH4O
product | 2-Amino-N-methylbenzamide | 10.3 g, about 100% | NC1=C(C(=O)NC)C=CC=C1 | C8H10N2O
